US05514680
A. 2-Acetamido-5-bromobenzotrifluoride
A solution of 2-amino-5-bromobenzotrifluoride (1.623 g, 6.76 mmol, Aldrich) in acetic anhydride (10 mL) was stirred at room temperature for 12 h to produce a white needle precipitate. It was filtered to give 1.840 g (99.7%) of title compound. Mp: 140°-2° C., 1HNMR (CDCl3): δ2.212 (s, 3H); 7.358(s, 1H); 7.659(d, 1H, J=8.7 Hz); 7.726(d, 1H, J=1.8 Hz); 8.118 (d, 1H, J=8.4 Hz).

reactant | 2-amino-5-bromobenzotrifluoride | 6.76 mmol, 1.623 g | NC1=C(C=C(C=C1)Br)C(F)(F)F | C7H5BrF3N
reactant | acetic anhydride | 10 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 2-Acetamido-5-bromobenzotrifluoride | 1.840 g, 99.7% | C(C)(=O)NC1=C(C=C(C=C1)Br)C(F)(F)F | C9H7BrF3NO
